US07514566B2
N-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(phthalazin-6-yl)thiazol-2-amine
A solution of tert-butyl 5-(phthalazin-6-yl)thiazol-2-ylcarbamate (0.320 g, 0.97 mmol) and Cs2CO3 (0.63 g, 1.9 mmol) in DMF was stirred at room temperature for 30 minutes. The resulting solution was treated dropwise with ((S)-2-(4-(trifluoromethyl)benzyl-1-(4-nitrophenylsulfonyl)aziridine in DMF, and was then stirred for 30 minutes. The reaction was treated in portions with K2CO3 (0.67 g, 4.9 mmol) and mercaptoethanol (0.23 g, 2.9 mmol) and stirred for 15 minutes. After removing the solvent under reduced pressure, the residue was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 5% to 95% MeOH in DCM. The resulting residue was dissolved in DCM and treated with TFA to provide the title compound (0.100 g, 19% yield). LCMS (M+H+) 430.6 calc. for C21H18F3N5S 430.6; 1H NMR (400 MHz, CDCl3-d) δ ppm 9.48 (s, 1H), 9.44 (s, 1H), 8.01 (d, 1H), 7.92 (d, 1H), 7.75 (s, 1H), 7.62 (sd, 3H), 7.35 (d, 2H), 3.92 (dd, 2H), 3.55 (dd, 1H), 3.25 (tt, 1H) 2.98 (dd, 1H), 2.89 (t, 2H), 2.72 (b, 1H).

reactant | tert-butyl 5-(phthalazin-6-yl)thiazol-2-ylcarbamate | 0.97 mmol, 0.320 g | C1=NN=CC2=CC(=CC=C12)C1=CN=C(S1)NC(OC(C)(C)C)=O | C16H16N4O2S
reactant | Cs2CO3 | 1.9 mmol, 0.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(trifluoromethyl)benzyl-1-(4-nitrophenylsulfonyl)aziridine | FC(C1=CC=C(CC2N(C2)S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1)(F)F | C16H13F3N2O4S
reactant | K2CO3 | 4.9 mmol, 0.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | mercaptoethanol | 2.9 mmol, 0.23 g | SC(C)O | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
product | N-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(phthalazin-6-yl)thiazol-2-amine | 0.100 g, 19% yield | N[C@H](CNC=1SC(=CN1)C=1C=C2C=NN=CC2=CC1)CC1=CC=C(C=C1)C(F)(F)F | C21H18F3N5S
